US04730008
2-[4-[(6-Bromohexyl)oxy]butyl]-N,N-diethylbenzamide
A mixture of CuI (20 mg), 1-bromo-6-[(3-butynyl)oxy]hexane (3.04 g), N,N-diethyl-2-iodobenzamide (3.95 g), BTPC (200 mg), N,N-dicyclohexylamine (2.60 g) and acetonitrile (20 ml) was stirred under nitrogen at room temperature for 4.5 h, diluted with ether (200 ml) and filtered. The filtrate was evaporated in vacuo, the residue in ethanol (100 ml) was treated with charcoal and the solvent evaporated in vacuo. The residual oil (5.32 g) in absolute ethanol (190 ml) was hydrogenated over pre-reduced 10% PDO-C (50% paste in water, 1.25 g) in absolute ethanol (20 ml), filtered through hyflo and evaporated in vacuo to give an oil. Purification by FCC eluting with T-EA-triethylamine (95:5:1) followed by FCC eluting with CX-EA (2:1) gave the title compound as a yellow oil (2.04 g). T.l.c. (T-ET-A-40:10:1) Rf 0.14.

reactant | 1-bromo-6-[(3-butynyl)oxy]hexane | 3.04 g | BrCCCCCCOCCC#C | C10H17BrO
reactant | N,N-diethyl-2-iodobenzamide | 3.95 g | C(C)N(C(C1=C(C=CC=C1)I)=O)CC | C11H14INO
reactant | N,N-dicyclohexylamine | 2.60 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | CuI | 20 mg | [Cu]I
product | 2-[4-[(6-Bromohexyl)oxy]butyl]-N,N-diethylbenzamide | 2.04 g | BrCCCCCCOCCCCC1=C(C(=O)N(CC)CC)C=CC=C1 | C21H34BrNO2
